US04826834
7β-[2-(2-Aminothiazol-4-yl)-2(Z)-methoxyiminoacetamido]-3-[(5-methyl-[1,2,3]triazolo[1,5-a]pyridinium-2-yl)methyl]-3-cephem-4-carboxylate.
7β-[2-(2-Aminothiazol-4-yl)-2(Z)-methoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid and 5-methyl[1,2,3]triazolo[1,5-a]pyridine are treated by the same procedure as that in Example 1, to yield the desired compound.

reactant | 7β-[2-(2-Aminothiazol-4-yl)-2(Z)-methoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OC | C18H19N5O8S2
reactant | 5-methyl[1,2,3]triazolo[1,5-a]pyridine | CC1=CC=2N(C=C1)N=NC2 | C7H7N3
product | 7β-[2-(2-Aminothiazol-4-yl)-2(Z)-methoxyiminoacetamido]-3-[(5-methyl-[1,2,3]triazolo[1,5-a]pyridinium-2-yl)methyl]-3-cephem-4-carboxylate | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CN2[NH2+]N3C(C=C(C=C3)C)=C2)C(=O)[O-])C1=O)=N/OC | C21H22N8O5S2
